US06800778B1
Production of 1-(1H-imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)-2-methylpropanol
(1H-Imidazol-4-yl)-(6-methoxynaphthalen-2-yl)ketone (6.50 g) was dissolved in THF (120 ml) and the mixture was cooled to −10° C. A solution (2.0 M; 38.7 ml) of isopropyl magnesium chloride in THF was slowly added dropwise and the mixture was stirred for 30 min. To the reaction mixture was added saturated aqueous solution of ammonium chloride and the mixture was diluted with water and extracted with ethyl acetate. The extract was washed with saturated brine, and after drying, concentrated. The obtained residue was purified by silica gel column chromatography (eluate, chloroform:methanol=20:1→10:1) and recrystallized from ethyl acetate to give the title compound (5.04 g) as a colorless crystalline powder.

reactant | (1H-Imidazol-4-yl)-(6-methoxynaphthalen-2-yl)ketone | 6.50 g | N1C=NC(=C1)C(=O)C1=CC2=CC=C(C=C2C=C1)OC | C15H12N2O2
reactant | isopropyl magnesium chloride | 2.0 M, 38.7 ml | C(C)(C)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(1H-imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)-2-methylpropanol | 5.04 g | N1C=NC(=C1)C(C(C)C)(O)C1=CC2=CC=C(C=C2C=C1)OC | C18H20N2O2
